US08557756B2
Preparation of Sodium 2-Dodecan-2-yloxypropane-1,3-disulfonate (“C12 Disulfonate”)
The compounds are made substantially as described in Example 2A above, using appropriate substitutions of starting materials (135.5 g of 1,3-dichloro-2-propan-2-yloxydodecane, 98.66 g of sodium sulfite, 34.18 g of sodium meta-bisulfite, 30.66 g of sodium carbonate, 590 g of water, 200° C., 20 hours). Following reaction, the reaction mixture is cooled to ambient temperature and unloaded to afford 865.3 g of light brown reaction product.

reactant | 1,3-dichloro-2-propan-2-yloxydodecane | 135.5 g | ClCC(C(CCCCCCCCC)Cl)OC(C)C | C15H30Cl2O
reactant | sodium sulfite | 98.66 g | S(=O)([O-])[O-].[Na+].[Na+]
reactant | sodium meta-bisulfite | 34.18 g | S(=O)(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | sodium carbonate | 30.66 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | 590 g | O | H2O
product | Sodium 2-Dodecan-2-yloxypropane-1,3-disulfonate | CC(CCCCCCCCCC)OC(CS(=O)(=O)[O-])CS(=O)(=O)[O-].[Na+].[Na+] | InChI=1S/C15H32O7S2.2Na/c1-3-4-5-6-7-8-9-10-11-14(2)22-15(12-23(16,17)18)13-24(19,20)21;;/h14-15H,3-13H2,1-2H3,(H,16,17,18)(H,19,20,21);;/q;2*+1/p-2
